Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Lipitor / lisinopril
 
Attending: ___.
 
Chief Complaint:
cough
 
Major Surgical or Invasive Procedure:
chemical stress MIBI
 
History of Present Illness:
Patient has extensive pulmonary history, including chronic 
pulmonary disease whose name he cannot recall. Patient states 
that he has had a cough for many year, but his cough worsened 
recently. States that the cold weather exacerbated his cough. He 
has been coughing yellow phlegm with some froth. The patient was 
given a zpac a week ago, which he states helped his symptoms 
somewhat. He states that he has also had some shortness of 
breath on exertion with the starting of these symptoms. He 
denies any chest pain or arm pain, diaphoresis, nausea, 
vomiting, or any other symptoms with the shortness of breath. He 
states that he had a 'silent' MI ___ years ago, and he did not 
feel any symptoms at that time. He did have one episode of 
diaphoresis when he was coming up from the basement, the night 
of admission. He also states that he was unable to lay flat in 
bed that night, as he began coughing uncontrolably. Patient 
denies any other review of symptoms. 
.  
REVIEW OF SYSTEMS  
On review of systems, s/he denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, myalgias, black stools or red stools. S/he 
denies recent fevers, chills or rigors. S/he denies exertional 
buttock or calf pain. All of the other review of systems were 
negative.  
.  
Cardiac review of systems is notable for absence of chest pain,  
paroxysmal nocturnal dyspnea, ankle edema, palpitations, syncope 
or presyncope.  
.  

 
Past Medical History:
1. CARDIAC RISK FACTORS: HTN, HL
2. CARDIAC HISTORY:  
- Silent MI approx ___ years ago
-CABG: none  
-PERCUTANEOUS CORONARY INTERVENTIONS:  none
-PACING/ICD: none  
3. OTHER PAST MEDICAL HISTORY:  
- osteoarthritis
- COPD
- Melanoma
- meniere's

 
Social History:
___
Family History:
father died of MI at age ___  
 
Physical Exam:
On Admission:
VS: Temp: 97.3, Pulse: 84, RR: 18, BP: 158/86, O2Sat: 97 RA
GENERAL: NAD. Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.  

NECK: Supple with JVP to just above clavicle 
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or 
S4.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes. Mild rhonchi in LLL
ABDOMEN: Soft, NTND. No HSM or tenderness.
EXTREMITIES: No c/c. No femoral bruits.  1+ pitting edema in 
legs bilaterally but wwp.
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
Rectal: guiaic negative

 
Pertinent Results:
On Admission:

___ 05:45AM BLOOD WBC-5.2 RBC-3.98* Hgb-12.3* Hct-36.6* 
MCV-92 MCH-30.9 MCHC-33.5 RDW-13.4 Plt ___
___ 05:45AM BLOOD ___ PTT-32.0 ___
___ 05:45AM BLOOD Neuts-71.2* ___ Monos-4.6 Eos-2.5 
Baso-1.5
___ 05:45AM BLOOD UreaN-19 Creat-0.8
___ 11:30AM BLOOD CK-MB-6 cTropnT-<0.01
___ 05:45AM BLOOD proBNP-1551*
___ 05:45AM BLOOD cTropnT-<0.01
___ 05:59AM BLOOD Glucose-99 Na-141 K-3.8 Cl-98 calHCO3-32*
.

 
Brief Hospital Course:
The patient was admitted with chronic cough that worsened over 
the last week. The patient stated that he has had a cough with 
yellow mucus that would worsen at night and especially when 
trying to sleep. The patient also stated that he has had 
increased shortness of breath with exertion recently. Given the 
possibility of cardiac involvement, the patient was sent for 
persantine MIBI. The study showed no indication that structural 
or perfusion issues were contributing to the problem. However, 
given severe LVH it is possible that slight diastolic failure 
may have been contributing to the problem. The patient is beign 
sent home ___ three days of lasix and close follow up with his 
regular doctors.

 
Medications on Admission:
ATENOLOL -  (Prescribed by Other Provider) - 25 mg Tablet - 1
Tablet(s) by mouth daily
ESOMEPRAZOLE MAGNESIUM [NEXIUM] - 40 mg Capsule, Delayed
Release(E.C.) - 1 Capsule(s) by mouth daily
EZETIMIBE [ZETIA] -  (Prescribed by Other Provider) - 10 mg
Tablet - 1 Tablet(s) by mouth daily
FEXOFENADINE [ALLEGRA] -  (Prescribed by Other Provider) - 60 mg
Tablet - 1 Tablet(s) by mouth twice daily
IPRATROPIUM-ALBUTEROL [COMBIVENT] -  (Prescribed by Other
Provider) - Dosage uncertain
VALSARTAN [DIOVAN] -  (Prescribed by Other Provider) - 80 mg
Tablet - 1 Tablet(s) by mouth daily
Medications - OTC
ASPIRIN -  (Prescribed by Other Provider) - 81 mg Tablet, 
Delayed
Release (E.C.) - 1 Tablet(s) by mouth daily
MULTI-VITAMIN -  (Prescribed by Other Provider) -   Tablet - 1
Tablet(s) by mouth daily
RED YEAST RICE EXTRACT -  (Prescribed by Other Provider) - 
Dosage
uncertain
.  
 
Discharge Medications:
1. valsartan 80 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

2. fexofenadine 60 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
3. cholestyramine (with sugar) 4 gram Packet Sig: One (1) Packet 
PO BID (2 times a day).  
4. atenolol 25 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
5. esomeprazole magnesium 40 mg Capsule, Delayed Release(E.C.) 
Sig: One (1) Capsule, Delayed Release(E.C.) PO once a day.  
6. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO once a day.  
7. Lasix 20 mg Tablet Sig: One (1) Tablet PO once a day for 3 
days.
Disp:*3 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cough secondary to chronic pulmonary disease
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Mr. ___, you presented with worsening cough and some 
shortness and breath and sweating at home. While with us, we 
considered the possibility of cardiac involvement. We had you do 
imaging studies that showed that cardiac cause was unlikely. We 
are discharging you in stable condition.
Here are the changes we made to your medications:
Please take lasix for 3 days
Please ask your doctor if you require more lasix
Please talk to your doctor about switching to metoprolol or 
carvedilol
 
Followup Instructions:
___